US08003659B2
Step L: Synthesis of ethyl[3,5-bis(trifluoromethyl)phenyl]-{4-(isopropoxy)-3-vinylphenyl}phosphinate BA3.
To a degassed solution of ethyl 3,5-bis(trifluoromethyl)-phenylphosphinate (3.33 g, 15.24 mmol) and 4-bromo-1-isopropoxy-2-vinylbenzene (3.33 mg, 13.8 mmol) in DMF (25 mL) were added the triethylamine (3.85 mL, 27.6 mmol) and tris(dibenzylideneacetone)dipalladium (2.53 g, 2.76 mmol). The mixture was heated in an oil bath at 70° C. overnight. The volatiles were removed in vacuo and the mixture was purified by column chromatography with 20 to 70% ethyl acetate in petroleum ether to afford compound BA3 (185 mg) as an oil in 2.8% yield.

reactant | ethyl 3,5-bis(trifluoromethyl)-phenylphosphinate | 15.24 mmol, 3.33 g | FC(C=1C=C(C=C(C1)C(F)(F)F)P(OCC)=O)(F)F | C10H9F6O2P
reactant | 4-bromo-1-isopropoxy-2-vinylbenzene | 13.8 mmol, 3.33 mg | BrC1=CC(=C(C=C1)OC(C)C)C=C | C11H13BrO
reactant | triethylamine | 27.6 mmol, 3.85 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 2.76 mmol, 2.53 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl[3,5-bis(trifluoromethyl)phenyl]-{4-(isopropoxy)-3-vinylphenyl}phosphinate | 2.8% yield | C(C)OP(=O)(C1=CC(=C(C=C1)OC(C)C)C=C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C21H21F6O3P
